US07217724B2
A solution of (R)-[3-(2-(tert-butoxycarbonylamino)propyl)-1H-indol-7-yloxy]acetic acid (0.30 g, 0.86 mmol) and carbonyldiimidazole (0.21 g, 1.3 mmol) in dimethylformamide (10 mL) is stirred at room temperature for 3 days. To the mixture are added methanesulfonamide (0.16 g, 1.7 mmol) and 1,8-diazabicyclo[5.4.0]undeca-7-ene (0.26 mL, 1.7 mmol), and the mixture is stirred at 50° C. for 4 hours. After cooling, to the mixture is added water (0.1 mL), and the mixture is concentrated. The residue is purified by silica gel column chromatography (methanol/chloroform=1/10→1/3), and the resultant is dissolved in ethyl acetate, washed with a 0.05N hydrochloric acid (×2) and saturated brine, and further dried over magnesium sulfate and concentrated to give the desired tert-butyl (R)-{2-[7-(2-methanesulfonylamino-2-oxo-ethoxy)-1H-indol-3-yl]-1-methylethyl}carbamate (0.14 g, yield: 38%).

reactant | (R)-[3-(2-(tert-butoxycarbonylamino)propyl)-1H-indol-7-yloxy]acetic acid | 0.86 mmol, 0.30 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)O)C | C18H24N2O5
reactant | carbonyldiimidazole | 1.3 mmol, 0.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 1.7 mmol, 0.16 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 1.7 mmol, 0.26 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 0.1 mL | O | H2O
product | tert-butyl (R)-{2-[7-(2-methanesulfonylamino-2-oxo-ethoxy)-1H-indol-3-yl]-1-methylethyl}carbamate | 0.14 g, yield: 38% | CS(=O)(=O)NC(COC=1C=CC=C2C(=CNC12)C[C@@H](C)NC(OC(C)(C)C)=O)=O | C19H27N3O6S
